US07732463B2
1-Bromo-2-(4-chloro-2-methyl-phenylsulfanyl)-benzene (intermediate for 1j).
Prepared from 4-chloro-1-iodo-2-methyl-benzene and 2-bromo-benzenethiol.

reactant | 4-chloro-1-iodo-2-methyl-benzene | ClC1=CC(=C(C=C1)I)C | C7H6ClI
reactant | 2-bromo-benzenethiol | BrC1=C(C=CC=C1)S | C6H5BrS
product | 1-Bromo-2-(4-chloro-2-methyl-phenylsulfanyl)-benzene | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)Cl)C | C13H10BrClS
